US05585378
4,7-Dimethyl-1H-indole-2,3-dione (700 mg) in dry DMF (10 ml) was cooled to 0° C. and sodium hydride (80% dispersion in mineral oil, 120 mg) was added. After 30 minutes at 0° C. 1-(2-chloroethyl)-4-(phenylmethyl)piperazine (1 g) in dry DMF (5 ml) was added. The mixture was heated to 80° C. for 2 hours and then evaporated under reduced pressure. The residue was subjected to flash chromatography and then treated with ethanolic HCl to give 4,7-dimethyl-1-[2-[4-(phenylmethyl)-1-piperazinyl]ethyl]-1H-indole-2,3-dione dihydrochloride, m.p. 223°-227° C. (dec.).

reactant | 4,7-Dimethyl-1H-indole-2,3-dione | 700 mg | CC1=C2C(C(NC2=C(C=C1)C)=O)=O | C10H9NO2
reactant | sodium hydride | 120 mg | [H-].[Na+]
reactant | 1-(2-chloroethyl)-4-(phenylmethyl)piperazine | 1 g | ClCCN1CCN(CC1)CC1=CC=CC=C1 | C13H19ClN2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4,7-dimethyl-1-[2-[4-(phenylmethyl)-1-piperazinyl]ethyl]-1H-indole-2,3-dione dihydrochloride | Cl.Cl.CC1=C2C(C(N(C2=C(C=C1)C)CCN1CCN(CC1)CC1=CC=CC=C1)=O)=O | InChI=1S/C23H27N3O2.2ClH/c1-17-8-9-18(2)21-20(17)22(27)23(28)26(21)15-14-24-10-12-25(13-11-24)16-19-6-4-3-5-7-19;;/h3-9H,10-16H2,1-2H3;2*1H
